US04039670
A mixture of 3 g of 4-chloro-1-(2-methyl-4-fluorophenyl)-1,1-ethylenedioxybutane, 2.5 g of 4-(3-trifluoromethylphenyl)-4-hydroxypiperidine, 1,4 g of anhydrous potassium carbonate, 0.05 g of potassium iodide and 30 ml of dimethylformamide was refluxed for 3 hours. The resulting mixture was poured into ice water and was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo. To the residual oil were added 60 ml of methanol, 21 ml of water and 10.5 ml of concentrated hydrochloric acid. The mixture was refluxed for 50 minutes and concentrated in vacuo. The residual oil was made alkaline with 28 % aqueous ammonia and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated. The residual solid was recrystallized from isopropyl ether to give 1-[γ-(2-methyl-4-flourobenzoyl)-propyl]-4-(3-trifluoromethylphenyl)-4-hydroxypiperidine, melting at about 63.5°-64.5+ C.

reactant | 4-chloro-1-(2-methyl-4-fluorophenyl)-1,1-ethylenedioxybutane | 3 g | ClCCCC1(OCCO1)C1=C(C=C(C=C1)F)C | C13H16ClFO2
reactant | 4-(3-trifluoromethylphenyl)-4-hydroxypiperidine | 2.5 g | FC(C=1C=C(C=CC1)C1(CCNCC1)O)(F)F | C12H14F3NO
reactant | potassium carbonate | 1,4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.05 g | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[γ-(2-methyl-4-flourobenzoyl)-propyl]-4-(3-trifluoromethylphenyl)-4-hydroxypiperidine | CC1=C(C(=O)CCCN2CCC(CC2)(O)C2=CC(=CC=C2)C(F)(F)F)C=CC(=C1)F | C23H25F4NO2
